US07858640B2
2-(2-chloro-4-fluorobenzyl)-3-oxopentanoic Acid Methyl Ester
A suspension of potassium tert-butoxide (1.6 g) in anhydrous tetrahydrofuran (25 mL) at 0° C. was treated with a mixture of tert-butanol (1.0 mL) and 3-oxopentanoic acid methyl ester (1.5 g). After stirring at 0° C. for 45 minutes a solution of 1-bromomethyl-2-chloro-4-fluorobenzene (2.6 g) in tetrahydrofuran (5.0 mL) was added and the resulting mixture stirred at room temperature for 3 days. The mixture was diluted with water and the tetrahydrofuran removed under reduced pressure. The mixture was extracted with ethyl acetate and the combined extracts dried over magnesium sulfate and the solvent removed under reduced pressure to afford the title compound, 3.2 g.

reactant | potassium tert-butoxide | 1.6 g | CC(C)([O-])C.[K+]
reactant | tert-butanol | 1.0 mL | C(C)(C)(C)O | C4H10O
reactant | 3-oxopentanoic acid methyl ester | 1.5 g | COC(CC(CC)=O)=O | C6H10O3
reactant | 1-bromomethyl-2-chloro-4-fluorobenzene | 2.6 g | BrCC1=C(C=C(C=C1)F)Cl | C7H5BrClF
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-chloro-4-fluorobenzyl)-3-oxopentanoic Acid Methyl Ester | COC(C(C(CC)=O)CC1=C(C=C(C=C1)F)Cl)=O | C13H14ClFO3
